US03973962
Preparation of 4-(4-dimethylaminophenyl)-2,6-diphenylthiapyrylium 4-(4-dimethylaminophenylazo)benzoate.
To a hot solution composed of 4.04 g. 4-(4-dimethylaminophenyl)-2,6-diphenylthiapyrylium chloride, 200 mls. water, and 50 mls. ethanol, was added in one portion a solution of sodium 4-(4-dimethylaminophenylazo)benzoate, 3.0 g., in hot water, 150 mls. There was immediate formation of a fine, dark-brown precipitate. The reaction mixture was quickly chilled in ice, and then filtered. The filtrate was a clear, deep orange. The solid was washed with cold water until the washings were only weakly orange. The solid was sucked dry and then a portion of it was dissolved in boiling acetonitrile, filtered hot, and evaporated down. The crystalline solid that came down on cooling the concentrated solution was filtered off and dried in vacuo. This solid was found to contain the above-noted thiapyrylium-azo dye salt.

reactant | 4-(4-dimethylaminophenyl)-2,6-diphenylthiapyrylium chloride | [Cl-].CN(C1=CC=C(C=C1)C1=CC(=[S+]C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | ethanol | C(C)O | C2H6O
reactant | sodium 4-(4-dimethylaminophenylazo)benzoate | CN(C1=CC=C(C=C1)N=NC1=CC=C(C(=O)[O-])C=C1)C.[Na+]
solvent | water | O | H2O
product | 4-(4-dimethylaminophenyl)-2,6-diphenylthiapyrylium 4-(4-dimethylaminophenylazo)benzoate | CN(C1=CC=C(C=C1)N=NC1=CC=C(C(=O)[O-])C=C1)C.CN(C1=CC=C(C=C1)C1=CC(=[S+]C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C25H22NS.C15H15N3O2/c1-26(2)23-15-13-19(14-16-23)22-17-24(20-9-5-3-6-10-20)27-25(18-22)21-11-7-4-8-12-21;1-18(2)14-9-7-13(8-10-14)17-16-12-5-3-11(4-6-12)15(19)20/h3-18H,1-2H3;3-10H,1-2H3,(H,19,20)/q+1;/p-1
